US06153754
To a solution of 50 mg of 4-(4-chloro-1-oxobutyl)-α,α-dimethylphenylacetic acid in 3 mL of methanol was added 50 mg of NaBH4. The mixture was stirred for 30 minutes, acidified with 2N HCl, and the methanol was removed in vacuo. The concentrate was extracted with EtOAc. The organics were dried over Na2SO4, filtered, and concentrated to afford 4-(1-hydroxy-4-chlorobutyl)-α,α-dimethylphenylacetic acid.

reactant | 4-(4-chloro-1-oxobutyl)-α,α-dimethylphenylacetic acid | 50 mg | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H17ClO3
reactant | NaBH4 | 50 mg | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 4-(1-hydroxy-4-chlorobutyl)-α,α-dimethylphenylacetic acid | OC(CCCCl)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H19ClO3
